US07087599B2
A mixture of 9a-butyl-4-cyano-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (17 mg) and pyridine hydrochloride (2 g) was placed under a nitrogen atmosphere and heated in an oil bath at 190-195° C. for 1 hour. After cooling to room temperature, the mixture was partitioned between EtOAc (20 ml) and water (30 mL). The organic portion was washed with brine (10 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (16 mg). The crude product was purified by preparative layer chromatography on a 0.05×20×20 cm silica gel GF plate using 5% CH3OH n CH2Cl2 as the developing solvent. The UV visible product band was eluted with 10% CH3OH in CH2Cl2, the solvent evaporated under vacuum, and the residue lyophilized from benzene-methanol to afford 9a-butyl-4-cyano-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 9a-butyl-4-cyano-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 17 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C#N)OC | C19H21NO2
reactant | pyridine hydrochloride | 2 g | Cl.N1=CC=CC=C1
product | 9a-butyl-4-cyano-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C#N)O | C18H19NO2
